US06987114B1
1-(3-Cyanobenzyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 3-cyanobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (185 mg, yield: 47.3%).

reactant | 5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | 3-cyanobenzyl bromide | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
product | 1-(3-Cyanobenzyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 185 mg, yield: 47.3% | C(#N)C=1C=C(CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)CC)=O)=O)C=CC1 | C22H21N3O2S
